### PR TITLE
Add stable category theory formalization

### PR DESCRIPTION
**Pull request by CharlesCNorton**
This formalization includes:
- Pre-stable and proper stable categories with suspension (Σ) and loop (Ω) functors
- Natural transformations η : 1 → Ω∘Σ and ε : Σ∘Ω → 1 with adjunction structure
- Distinguished triangles and the axioms of triangulated categories (TR1, TR2)
- The fundamental duality principle: opposite of stable is stable with Σ and Ω swapped
- Basic cone/cofiber construction for completing morphisms to triangles
- Extensive theory of semi-stable categories and triangle identities

Known limitations:
- No shift/translation functor [1] that shifts degrees
- No cone sequences beyond basic cone construction  
- No proof that rotation of distinguished triangles preserves the distinguished property in all cases
- No completion of morphisms to distinguished triangles beyond the basic framework
- No concrete examples (stable homotopy category, derived categories, etc.)
- Uses traditional Categories library instead of newer WildCat framework

Technical details:
- Currently compiles with JsCoq 0.10.0~beta1 and Coq 8.10+beta2 (July 2019)
- Requires refactoring for compatibility with current Coq and HoTT versions
- ~6000 lines covering foundations through advanced duality theorems

Opening as draft PR per discussion with @Alizter for collaborative updating to latest versions.

Rest added by @jdchristensen :  Files to review.  A checkmark indicates that at least one person has *reviewed* it, not that the comments have been taken into account.  That could be indicated by a strikethrough, or something like that.

- [x] ~~ZeroObjects.v~~
- [x] ~~TransportMorphisms.v~~
- [x] ~~Biproducts.v~~
- [x] ~~SemiAdditive.v~~
- [x] ~~AdditiveCategories.v~~
- [ ] OppositeCategories.v
- [ ] PreStableCategories.v
- [ ] SemiStableCategories.v
- [ ] Triangles.v
- [ ] OppositePreStable.v
- [ ] PreStableCofiber.v
- [ ] TriangleMorphisms.v
- [ ] TriangleRotation.v
- [ ] ZeroTransformations.v
- [ ] OctahedralLemmas.v
- [ ] ProperStableCategories.v
- [ ] SuspensionFixedPoints.v
- [ ] AdvancedStructures.v
- [ ] OctahedralAxiom.v
- [ ] TriangulatedAxiomsTR123.v
- [ ] StableTriangulated.v
- [ ] DualityPrinciple.v
- [ ] DualityApplications.v

### CODE REVIEW

**Comment by jdchristensen** [comment]
@CharlesCNorton This sounds great!  Hopefully it will only require some minor tweaks to build with the current versions of Coq and the library.  I don't know much about the Categories sub-library, but it hasn't changed much in years.  Are you planning to work on updating it to the current versions?  If so, let us know if you need any tips to fix particular issues.

**Comment by CharlesCNorton** [comment]
@jdchristensen @Alizter Update complete! It now compiles on Coq 8.20.1 + HoTT 8.20. Only needed to change True → Unit and I → tt in 3 places. Much easier than expected! Please give it a run at your leisure!

**Comment by jdchristensen** [comment]
@CharlesCNorton That's great that it was easy to do!  Hopefully @Alizter or I can review this soon.

BTW, the one build error is unrelated to your PR, and I've created #2290 to track it.

File: theories/Categories/Stable/StableCategories.v [hunk 1]
```diff
@@ -0,0 +1,3090 @@
+(** * Foundations of Stable Category Theory
+    
+    This file formalizes the foundational definitions for pre-stable and
+    stable categories within the framework of Homotopy Type Theory (HoTT).
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: Our style guide says that comments should have no line breaks within paragraphs.  But I see that much of the Categories library uses the linebreak style, so I think it's ok to keep it this way.

File: theories/Categories/Stable/StableCategories.v [hunk 2]
```diff
@@ -0,0 +1,3090 @@
...
+    
+    Originally developed with:
+    - JsCoq (0.10.0~beta1)
+    - Coq 8.10+beta2/8991 (July 2019)
+    - OCaml 4.07.1
+    - Js_of_ocaml 3.4.0
+*)
+
+From HoTT Require Import Basics.
+From HoTT.Basics Require Import Overture PathGroupoids Contractible Equivalences.
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: The second line is redundant, isn't it?

File: theories/Categories/Stable/StableCategories.v [hunk 3]
```diff
@@ -0,0 +1,3090 @@
...
+From HoTT.Types Require Import Forall Sigma Arrow Paths Sum Prod Unit Empty.
+From HoTT.Categories Require Import Category Functor NaturalTransformation.
+From HoTT.Categories Require Import InitialTerminalCategory.
+From HoTT.Categories.Functor Require Import Identity Composition.
+From HoTT.Spaces Require Import Int.
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: Our usual style would be `Require Import Spaces.Int.`  I do see that the `From ...` style saves a bit of typing in all but the last line, so I could go either way, but I do find this a bit harder to read.

File: theories/Categories/Stable/StableCategories.v [hunk 4]
```diff
@@ -0,0 +1,3090 @@
...
+
+
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: We usually avoid more than a single consecutive empty line.

File: theories/Categories/Stable/StableCategories.v [hunk 5]
```diff
@@ -0,0 +1,3090 @@
...
+  is_initial : forall X, Contr (morphism C zero X);
+  is_terminal : forall X, Contr (morphism C X zero)
+}.
+
+(** The zero morphism between any two objects is the unique morphism
+    that factors through the zero object. *)
+
+Definition zero_morphism {C : PreCategory} (Z : ZeroObject C) 
+  (X Y : object C) : morphism C X Y :=
+  (@center _ (@is_initial _ Z Y) o @center _ (@is_terminal _ Z X))%morphism.
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: Our current style is that when a definition spans multiple lines, usually the `:` is put at the start of a line (after two spaces) and the `:=` is also put at the start of a  line (after two spaces).

File: theories/Categories/Stable/StableCategories.v [hunk 6]
```diff
@@ -0,0 +1,3090 @@
...
+  (* Coproduct structure *)
+  inl : morphism C X biproduct_obj;
+  inr : morphism C Y biproduct_obj;
+  
+  (* Product structure *)
+  outl : morphism C biproduct_obj X;
+  outr : morphism C biproduct_obj Y
+}.
+
+(** A biproduct satisfies specific axioms relating the injections and projections *)
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: We end comments in a period (but not headings).

File: theories/Categories/Stable/StableCategories.v [hunk 7]
```diff
@@ -0,0 +1,3090 @@
...
+  (X Y : object C) : morphism C X Y :=
+  (@center _ (@is_initial _ Z Y) o @center _ (@is_terminal _ Z X))%morphism.
+
+(** ** Biproducts
+    
+    A biproduct is an object that is simultaneously a product and coproduct.
+    In additive categories, finite products and coproducts coincide.
+*)
+
+Record Biproduct {C : PreCategory} (X Y : object C) := {
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: I don't like how the words `Biproduct`, `IsBiproduct` and `BiproductUniversal` are used here.  To me, a term of type `Biproduct` should be a biproduct, including all properties.  And if both `Foo` and `IsFoo` are defined, I would expect that `Foo` is a record consisting of some data `X` and a proof of `IsFoo X`.

File: theories/Categories/Stable/StableCategories.v [hunk 8]
```diff
@@ -0,0 +1,3090 @@
...
+    object_of add_functor (@zero _ (add_zero A)) = 
+    @zero _ (add_zero B);
+  
+  preserves_biproduct : forall (X Y : object A),
+    object_of add_functor (@biproduct_obj _ _ _ (add_biproduct A X Y)) =
+    @biproduct_obj _ _ _ (add_biproduct B (object_of add_functor X) 
+                                         (object_of add_functor Y))
+}.
+
+(** ** Basic Lemmas for Categories with Zero Objects
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: We don't capitalize words in headers, except for the first word and other words that are always capitalized.

**Review by jdchristensen — COMMENTED** [review]
I just took a quick look at the start of this, making mostly trivial style comments.

A larger comment is that this should be broken up into many smaller files, each achieving a specific goal.  The average file in the Categories library is 81 lines long, and the longest is 677 lines long, just to give you an idea of how things are generally done.

BTW, we also have work on biproducts in wild categories in #2016, but it is being reorganized a bit right now.  It might be good to follow similar naming, but this task should wait until #2016 is a bit further along (maybe in about two weeks?)  @ThomatoTomato

File: theories/Categories/Stable/StableCategories.v [hunk 9]
```diff
@@ -0,0 +1,3090 @@
...
+  (* h : Z → ΣX in PS becomes h : ΩX → Z in PS^op (since Σ and Ω swap) *)
+  let h_dual : morphism (opposite_prestable_category PS) 
+                        (object_of (Susp PS) X) Z := h in
+  (* The triangle pattern reverses:
+     Original in PS:     X --f--> Y --g--> Z --h--> ΣX
+     In PS^op:          Y <--f-- X,  Z <--g-- Y,  ΩX <--h-- Z *)
+  Unit.
+Proof.
+  exact tt.
+Qed.
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: I see the `Unit` type appearing in a number of places in a strange way, sometimes as a hypothesis and sometimes as a conclusion (like here).  Can you explain what this is trying to achieve?

Comment (CharlesCNorton) [reply theories/Categories/Stable/StableCategories.v]: @jdchristensen  Apologies - the unit lemmas are just type-checked documentation. It's a bit idiosyncratic, I know. I can remove them.

**Comment by CharlesCNorton** [comment]
@jdchristensen Sorry for adding more while you're reviewing! I added two sections that might be useful:

1. **Suspension Fixed Points** - Shows zero is always a fixed point (ΣX ≅ X)
2. **TR4 (Octahedral Axiom)** - The fourth triangulated category axiom

Everything still compiles!

**Comment by jdchristensen** [comment]
> Sorry for adding more while you're reviewing!

No worries, I haven't started any serious review.  I think it'll be easier to review when broken up a bit, as then we could tackle one piece at a time.

File: theories/Categories/Stable/StableCategories.v (hunk 9 above)
Comment (jdchristensen) [reply theories/Categories/Stable/StableCategories.v]: Documentation is good, but in this case it seems a bit roundabout.  Could you achieve essentially the same thing with
```suggestion
Definition distinguished_triangle_duality {PS : PreStableCategory} 
  (D : @DistinguishedTriangle PS)
  (T := triangle D)
  : morphism (opposite_prestable_category PS) 
                     (object_of (Susp PS) (X T)) (Z T)
   := h T.
```
along with a comment explaining what is happening?  (Untested, but you get the idea.)

Such things sometimes go in a corresponding file in the `test/` subfolder, depending whether they are more like unit tests or documentation.

File: theories/Categories/Stable/StableCategories.v [hunk 10]
```diff
@@ -0,0 +1,3139 @@
...
+    including distinguished triangles, triangle rotation, and the axioms
+    of triangulated categories (TR1, TR2).
+
+    A significant focus is the formalization of the duality principle,
+    demonstrating that the opposite of a stable category is stable, with
+    the suspension (Σ) and loop (Ω) functors swapping roles.
+    
+    Author: Charles Norton
+    Date: June 17th, 2025
+    License: MIT License
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: We don't include author and licence info in the files.  Authorship becomes out of date as the library evolves, so the git history is the best source for that information.  And we have an overall BSD 2-clause licence in LICENSE.TXT which you are hopefully ok with.

File: theories/Categories/Stable/StableCategories.v [hunk 11]
```diff
@@ -0,0 +1,3139 @@
...
+    
+    Updated and tested with:
+    - Coq 8.20.1
+    - HoTT 8.20
+    
+    Originally developed with:
+    - JsCoq (0.10.0~beta1)
+    - Coq 8.10+beta2/8991 (July 2019)
+    - OCaml 4.07.1
+    - Js_of_ocaml 3.4.0
```
Comment (jdchristensen) [inline theories/Categories/Stable/StableCategories.v]: This is useful for out-of-tree work, but now that the merge process is underway, it should be removed.

File: theories/Categories/Stable/StableCategories.v (hunk 10 above)
Comment (CharlesCNorton) [reply theories/Categories/Stable/StableCategories.v]: No problem. I can remove that too 👍- fine with BSD 2-clause!

File: theories/Categories/Stable/StableCategories.v (hunk 5 above)
Comment (CharlesCNorton) [reply theories/Categories/Stable/StableCategories.v]: TO DO

File: theories/Categories/Stable/StableCategories.v (hunk 6 above)
Comment (CharlesCNorton) [reply theories/Categories/Stable/StableCategories.v]: TO DO

File: theories/Categories/Stable/StableCategories.v (hunk 8 above)
Comment (CharlesCNorton) [reply theories/Categories/Stable/StableCategories.v]: TO DO

File: theories/Categories/Stable/AdvancedStructures.v [hunk 12]
```diff
@@ -0,0 +1,323 @@
...
+  has_commuting_susp_loop
+  has_coinciding_compositions
+  susp_loop_is_identity
+  loop_susp_is_identity
+  has_inverse_objects
+  is_groupoid
+  : advanced_structures.
+
+(** The next file in the library will be [DualityPrinciple.v] which establishes
+    the universal duality principle and meta-theorems about dualization. *)
```
Comment (jdchristensen) [inline theories/Categories/Stable/AdvancedStructures.v]: Can you put a newline at the end of any file that doesn't have one?

File: theories/Categories/Stable/AdditiveCategories.v [hunk 13]
```diff
@@ -0,0 +1,274 @@
...
+    - Categories with zero objects and biproducts
+    - Additive functors that preserve this structure
+    - Basic properties of additive functors
+    
+    Note: We don't yet define the abelian group structure on hom-sets,
+    which would require additional machinery. We focus on the categorical
+    structure that makes a category "additive-like".
+*)
+
+From HoTT Require Import Basics Types Categories.
```
Comment (jdchristensen) [inline theories/Categories/Stable/AdditiveCategories.v]: I don't think you want to require all of `Categories`, since once that meta-file is updated to include your work, this will cause a circular import.

File: theories/Categories/Stable/AdvancedStructures.v (hunk 12 above)
Comment (CharlesCNorton) [reply theories/Categories/Stable/AdvancedStructures.v]: TO DO

File: theories/Categories/Stable/AdditiveCategories.v (hunk 13 above)
Comment (CharlesCNorton) [reply theories/Categories/Stable/AdditiveCategories.v]: TO DO

**Comment by CharlesCNorton** [comment]
@jdchristensen  I defer entirely to your judgment on the organization. I'll provide the ordered file list with dependencies as requested.

**Comment by jdchristensen** [comment]
BTW, feel free to mark things as "Resolved" when you handle them.

**Comment by jdchristensen** [comment]
> Please forgive the presentation.

Oh, I didn't mean that you had to go to the trouble of listing the dependencies of each file.  I just wanted the files listed in an order compatible with the dependencies.  Assuming that you did this, I have added them as a task list in the first comment of this PR.

> I will also upload:

Thanks for doing that, but you should remove that file from the PR.  It would make more sense as an *attachment* to to the PR (using the "paste, drop or click to add files" button), but it doesn't make sense as a file *in* the PR itself.  In any case, now that the files are in a task list, we don't need the Dependencies.md file at all.

File: theories/Categories/Stable/ZeroObjects.v [hunk 14]
```diff
@@ -0,0 +1,164 @@
+(** * Zero objects in categories
+
+    Zero objects (both initial and terminal) and zero morphisms, foundational
+    concepts for additive and stable category theory.
+*)
+
+From HoTT Require Import Basics Types Categories.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v]: Remove `Categories` here, to prevent loops.

File: theories/Categories/Stable/ZeroObjects.v [hunk 15]
```diff
@@ -0,0 +1,164 @@
...
+From HoTT.Categories Require Import Category Functor NaturalTransformation.
+From HoTT.Categories Require Import InitialTerminalCategory.
+
+(** * Zero objects
+    
+    A zero object in a category is an object that is both initial and terminal.
+    This is the categorical analog of the zero element in an abelian group.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v]: I'm not sure if the second sentence is really a good analogy...

File: theories/Categories/Stable/ZeroObjects.v [hunk 16]
```diff
@@ -0,0 +1,164 @@
...
+*)
+
+Record ZeroObject (C : PreCategory) := {
+  zero : object C;
+  is_initial : forall X, Contr (morphism C zero X);
+  is_terminal : forall X, Contr (morphism C X zero)
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v]: You should use `IsInitialObject` and `IsTerminalObject` from Category/Objects.v.

File: theories/Categories/Stable/ZeroObjects.v [hunk 17]
```diff
@@ -0,0 +1,164 @@
...
+Arguments zero {C} z : rename.
+Arguments is_initial {C} z X : rename.
+Arguments is_terminal {C} z X : rename.
+
+(** The zero morphism between any two objects is the unique morphism
+    that factors through the zero object. *)
+
+Definition zero_morphism {C : PreCategory} (Z : ZeroObject C) (X Y : object C)
+  : morphism C X Y
+  := (@center _ (@is_initial _ Z Y) o @center _ (@is_terminal _ Z X))%morphism.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:34]: You could add `map_from_initial` and `map_to_terminal` to Objects.v, giving access to these centers.

File: theories/Categories/Stable/ZeroObjects.v [hunk 18]
```diff
@@ -0,0 +1,164 @@
...
+  (X : object C) (T : object C)
+  (H_terminal : Contr (morphism C X T))
+  (f g : morphism C X T)
+  : f = g.
+Proof.
+  transitivity (@center _ H_terminal).
+  - exact (@contr _ H_terminal f)^.
+  - exact (@contr _ H_terminal g).
+Qed.
+
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:63]: These results should move to Objects.v.  (And the `unique` tactic near the end of that file can solve them!)  It's probably a good idea to remove the `Local` in front of that tactic, as I'll bet it can solve other goals in this PR.

File: theories/Categories/Stable/ZeroObjects.v (hunk 16 above)
Comment (jdchristensen) [reply theories/Categories/Stable/ZeroObjects.v]: And you should make the fields `is_initial` and `is_terminal` into instances by using `::` instead of `:`.

File: theories/Categories/Stable/ZeroObjects.v [hunk 19]
```diff
@@ -0,0 +1,164 @@
...
+  (f : morphism C X (zero Z))
+  (g : morphism C (zero Z) Y)
+  : (g o f)%morphism = zero_morphism Z X Y.
+Proof.
+  unfold zero_morphism.
+  apply ap011.
+  - apply initial_morphism_unique.
+    apply (is_initial Z).
+  - apply terminal_morphism_unique.
+    apply (is_terminal Z).
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v]: With the instances suggested above, you should be able to do:
```suggestion
  - rapply initial_morphism_unique.
  - rapply terminal_morphism_unique.
```

File: theories/Categories/Stable/ZeroObjects.v [hunk 20]
```diff
@@ -0,0 +1,164 @@
...
+Qed.
+
+(** The terminal morphism from zero to itself is the identity. *)
+Lemma terminal_zero_to_zero_is_id {C : PreCategory} (Z : ZeroObject C)
+  : @center _ (is_terminal Z (zero Z)) = 
+    (1%morphism : morphism C (zero Z) (zero Z)).
+Proof.
+  apply terminal_morphism_unique.
+  apply (is_terminal Z (zero Z)).
+Qed.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:94]: Are these needed?  With the instance that zero objects are initial and terminal, it should be possible to just use `initial_morphism_unique` and `terminal_morphism_unique` in place of these.

File: theories/Categories/Stable/ZeroObjects.v [hunk 21]
```diff
@@ -0,0 +1,164 @@
...
+
+(** Composition with a terminal morphism to zero gives zero morphism. *)
+Lemma terminal_comp_is_zero {C : PreCategory} (Z : ZeroObject C) 
+  (X Y : object C) 
+  (f : morphism C X (zero Z))
+  : (@center _ (is_initial Z Y) o f)%morphism = 
+    zero_morphism Z X Y.
+Proof.
+  apply morphism_through_zero_is_zero.
+Qed.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:104]: Again, not sure why this is needed, since one could just use `morphism_through_zero_is_zero`.  (But sometimes a wrapper like this turns out to be helpful.  I'm just checking.)

File: theories/Categories/Stable/ZeroObjects.v [hunk 22]
```diff
@@ -0,0 +1,164 @@
...
+Proof.
+  unfold zero_morphism.
+  assert (H: @center _ (is_terminal Z (zero Z)) = 
+            (1%morphism : morphism C (zero Z) (zero Z))).
+  { 
+    apply (@contr _ (is_terminal Z (zero Z))).
+  }
+  rewrite H.
+  apply Category.Core.right_identity.
+Qed.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:119]: Isn't this just a special case of `initial_morphism_unique`?  If so, can it be removed?  (At least, it seems like the proof could be simplified.)

File: theories/Categories/Stable/ZeroObjects.v [hunk 23]
```diff
@@ -0,0 +1,164 @@
...
+  assert (H: (g o @center _ (is_initial Z Y))%morphism = 
+             @center _ (is_initial Z W)).
+  {
+    symmetry.
+    apply (@contr _ (is_initial Z W)).
+  }
+  rewrite <- Category.Core.associativity.
+  rewrite H.
+  reflexivity.
+Qed.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:139]: It seems to me that this should follow quickly from `morphism_through_zero_is_zero`, maybe with an associativity thrown in.  Same for the next result.

**Review by jdchristensen — COMMENTED** [review]
I've now review ZeroObjects.v.  I found lots of inefficient things.  Is it possible for you to extrapolate from the comments I made on this file and improve other files before I review them?

File: theories/Categories/Stable/ZeroObjects.v [hunk 24]
```diff
@@ -4,25 +4,27 @@
     concepts for additive and stable category theory.
 *)
 
-From HoTT Require Import Basics Types Categories.
+From HoTT Require Import Basics Types.
 From HoTT.Categories Require Import Category Functor NaturalTransformation.
 From HoTT.Categories Require Import InitialTerminalCategory.
+From HoTT.Categories.Category Require Import Objects.
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:10]: Since you imported `Category` above, that brought in `Category.Objects` already, so the last line shouldn't be needed.  (Often a folder Foo has a meta-file Foo.v that imports everything in that folder.  E.g. Category.v, Basics.v.)

File: theories/Categories/Stable/ZeroObjects.v [hunk 25]
```diff
@@ -113,7 +112,7 @@ Proof.
   assert (H: @center _ (is_terminal Z (zero Z)) = 
             (1%morphism : morphism C (zero Z) (zero Z))).
   { 
-    apply (@contr _ (is_terminal Z (zero Z))).
+    rapply contr.
   }
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:116]: Since this is a one-liner, I would prefer:
```
    1: rapply contr.
```
with no braces.

File: theories/Categories/Stable/ZeroObjects.v [hunk 26]
```diff
@@ -132,7 +131,7 @@ Proof.
              @center _ (is_initial Z W)).
   {
     symmetry.
-    apply (@contr _ (is_initial Z W)).
+    rapply contr.
   }
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroObjects.v:135]: Here and below, you can do `1: symmetry; rapply contr.`

File: theories/Categories/Stable/ZeroMorphismLemmas.v [hunk 27]
```diff
@@ -1,360 +1,219 @@
-(** * Zero natural transformations and forcing principles
+(** * Transport Lemmas and Morphism Properties for Categories with Zero Objects
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroMorphismLemmas.v]: Lowercase except for first word.

File: theories/Categories/Stable/ZeroMorphismLemmas.v [hunk 28]
```diff
@@ -1,360 +1,219 @@
...
 
-Hint Resolve
-  zero_always_retractable
-  eta_zero_forcing_principle
-  prestable_classes_disjoint
-  : zero_transformations.
-  
\ No newline at end of file
+(** The next file in the library will be [Biproducts.v] which defines
+    biproduct structures in categories with zero objects. *)
```
Comment (jdchristensen) [inline theories/Categories/Stable/ZeroMorphismLemmas.v]: While the dependencies might be fairly linear now, they will likely evolve, so I wouldn't talk about a "next" file.

**Comment by jdchristensen** [comment]
@CharlesCNorton I like how you factored out one task into a separate PR.  I think that's a good way to continue, as this PR is going to get overwhelmed by comments as we work through the files.  So maybe you can finish up ZeroObjects.v in a new PR that we'll polish and merge, and then do a PR for the next file, etc.  That will also give you a chance to clean up each item before I review it.

**Comment by CharlesCNorton** [comment]
> @CharlesCNorton ...maybe you can finish up ZeroObjects.v in a new PR that we'll polish and merge, and then do a PR for the next file, etc. That will also give you a chance to clean up each item before I review it.

👍will do

**Comment by CharlesCNorton** [comment]
My plan is to complete up to SemiStableCategories.v by the end of December or so.

**Comment by CharlesCNorton** [comment]
Closing in favor of wild categories instead
